US08008307B2
Step b: 6-chloro-8-(3-chlorophenyl)-9H-purine
To a mixture of 6-Chloro-4,5-diaminopyrimidine (0.70 g, 4.84 mmol) and 3-chlorobenzoic acid (0.76 g, 4.84 mmol) in the flask was added phosphoryl chloride (40.0 mL), and the resulting mixture was stirred for 16 h at 100° C. The reaction mixture was evaporated to remove excess phosphoryl chloride, and the residue was added to water (20 mL). The precipitate was filtered and purified by flash chromatography (0 to 5% Methanol/DCM) to afford the title compound (1.28 g, 31%) as a yellow solid. LC/MS: R.=1.59 min, ES+ 265.0 (FA standard).

reactant | 6-Chloro-4,5-diaminopyrimidine | 4.84 mmol, 0.70 g | ClC1=C(C(=NC=N1)N)N | C4H5ClN4
reactant | 3-chlorobenzoic acid | 4.84 mmol, 0.76 g | ClC=1C=C(C(=O)O)C=CC1 | C7H5ClO2
reactant | phosphoryl chloride | 40.0 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 6-chloro-8-(3-chlorophenyl)-9H-purine | 1.28 g, 31% | ClC1=C2N=C(NC2=NC=N1)C1=CC(=CC=C1)Cl | C11H6Cl2N4
